US09085570B2
To a solution of 4-(5-methyl-4-((4-(morpholinomethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoic acid (490 mg, 1.07 mmol, 1.00 equiv), EDCI (250 mg, 1.31 mmol, 1.22 equiv), HOBt (180 mg, 1.33 mmol, 1.24 equiv), triethylamine (330 mg, 3.27 mmol, 3.04 equiv) and pyridin-3-ylmethanamine (330 mg, 3.06 mmol, 2.84 equiv) in N,N-dimethylformamide (20 mL) was stirred overnight at room temperature. The product was precipitated by the addition of 60 mL ice/water. The solid was collected by filtration and washed with water (1×20 mL) and dried in an oven under reduced pressure to give 0.40 g (68%) of 4-(5-methyl-4-((4-(morpholinomethyl)phenylsulfonyl)methyl)oxazol-2-yl)-N-(pyridin-3-ylmethyl)benzamide as a white solid. LC-MS: (ES, m/z): 547 [M+H]+. 1HNMR (400 MHz, DMSO-d6, ppm) δ 9.22 (s, 1H), 8.57 (s, 1H), 8.46 (s, 1H), 7.98 (d, J=7.6Hz, 2H), 7.86 (d, J=7.6Hz, 2H), 7.74-7.72 (m, 3H), 7.53 (d, J=7.6Hz, 2H), 7.36 (s, 1H), 4.67 (s, 2H), 4.51 (d, J=4.0Hz, 2H), 3.55 (s, 6H), 2.32 (s, 4H), 2.15 (s, 3H).

reactant | 4-(5-methyl-4-((4-(morpholinomethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoic acid | 1.07 mmol, 490 mg, 1.00 equiv | CC1=C(N=C(O1)C1=CC=C(C(=O)O)C=C1)CS(=O)(=O)C1=CC=C(C=C1)CN1CCOCC1 | C23H24N2O6S
reactant | EDCI | 1.31 mmol, 250 mg, 1.22 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.33 mmol, 180 mg, 1.24 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 3.27 mmol, 330 mg, 3.04 equiv | C(C)N(CC)CC | C6H15N
reactant | pyridin-3-ylmethanamine | 3.06 mmol, 330 mg, 2.84 equiv | N1=CC(=CC=C1)CN | C6H8N2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-(5-methyl-4-((4-(morpholinomethyl)phenylsulfonyl)methyl)oxazol-2-yl)-N-(pyridin-3-ylmethyl)benzamide | 0.40 g, 68% | CC1=C(N=C(O1)C1=CC=C(C(=O)NCC=2C=NC=CC2)C=C1)CS(=O)(=O)C1=CC=C(C=C1)CN1CCOCC1 | C29H30N4O5S
